US04788195
N-Phenyl-4-(4-pyridinyl)-2-pyrimidinamine, dihydrochloride
A 2.0 g amount of N-phenyl-4-(4-pyridinyl)-2-pyrimidinamine was dissolved in 70 ml of dichloromethane with warming. The solution was cooled to room temperature, then hydrogen chloride gas was bubbled in to give a brick red precipitate. The mixture became very thick and more dichloromethane was added. The precipitate was collected, air dried, then dried in vacuo and gave 2.63 g of the desired product as red-orange crystals, mp 259°-262° C.

reactant | N-phenyl-4-(4-pyridinyl)-2-pyrimidinamine | C1(=CC=CC=C1)NC1=NC=CC(=N1)C1=CC=NC=C1 | C15H12N4
reactant | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | N-Phenyl-4-(4-pyridinyl)-2-pyrimidinamine, dihydrochloride | 2.63 g | Cl.Cl.C1(=CC=CC=C1)NC1=NC=CC(=N1)C1=CC=NC=C1 | InChI=1S/C15H12N4.2ClH/c1-2-4-13(5-3-1)18-15-17-11-8-14(19-15)12-6-9-16-10-7-12;;/h1-11H,(H,17,18,19);2*1H
